US06660753B2
A mixture of 3-(5-tert-butoxycarbonylpyrid-2-yl)-5-(3-cyanophenyl)-1,2,4-oxadiazole (114 mg, 0.33 mmol) in formic acid (98%, 6 mL) was heated for 2 days at 45° C. The incomplete reaction was resubjected to additional formic acid (96%, 6 mL) for 1 day at 45° C. Co-evaporation of the solvent in vacuo using toluene afforded 103.6 mg of 3-(5-hydroxycarbonylpyrid-2-yl)-5-(3-cyanophenyl)-1,2,4-oxadiazole, as a white solid.

reactant | 3-(5-tert-butoxycarbonylpyrid-2-yl)-5-(3-cyanophenyl)-1,2,4-oxadiazole | 0.33 mmol, 114 mg | C(C)(C)(C)OC(=O)C=1C=CC(=NC1)C1=NOC(=N1)C1=CC(=CC=C1)C#N | C19H16N4O3
solvent | formic acid | 6 mL | C(=O)O | CH2O2
solvent | formic acid | 6 mL | C(=O)O | CH2O2
product | 3-(5-hydroxycarbonylpyrid-2-yl)-5-(3-cyanophenyl)-1,2,4-oxadiazole | 103.6 mg | OC(=O)C=1C=CC(=NC1)C1=NOC(=N1)C1=CC(=CC=C1)C#N | C15H8N4O3
